US07262198B2
1-Phenyl-2-pyrrolidinone (1 g, 6.2 mmol) in THF (60 mL, anhydrous) was cooled to −40° C. and LiHMDS (8 mL, 8 mmol, 1 M soln. in THF) was added. The resulting solution was stirred for 40 min. and tosyl chloride (1.78 g, 9.33 mmol) was then added. After warming the solution to RT over a 14 hour period, H2O added to quench reaction. The solution was then concentrated to provide an oil. Next, the oil was redissovled in EtOAc and washed with H2O and brine. The organic layer was dried over Na2SO4, filtered, and concentrated to an oil once again. Purified via flash column chromatography (4:1 hexane/EtOAc) provided 3-chloro-1-phenylpyrrolidin-2-one.

reactant | 1-Phenyl-2-pyrrolidinone | 6.2 mmol, 1 g | C1(=CC=CC=C1)N1C(CCC1)=O | C10H11NO
reactant | LiHMDS | 8 mmol, 1 M, 8 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | tosyl chloride | 9.33 mmol, 1.78 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | H2O | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-chloro-1-phenylpyrrolidin-2-one | ClC1C(N(CC1)C1=CC=CC=C1)=O | C10H10ClNO
